US07176242B2
3-(Methoxycarbonyl)-5-(1,3-oxazol-2-yl)benzoic acid
To a −70° C. stirred solution of oxazole (432 mg, 6.3 mmol) in tetrahydrofuran (10 mL) is added n-butyllithium (2.5 M in hexanes, 2.75 mL, 6.9 mmol). After 30 min, zinc chloride (1 M in diethyl ether, 18.75 mL, 18.75 mmol) is added and the reaction mixture is warmed to 0° C. for 1 h. To this mixture is added a solution of 3-iodo-5-(methoxycarbonyl)benzoic acid prepared by the method in EXAMPLE SP-281, step 1 (1.8 g, 6 mmol) in anhydrous tetrahydrofuran (10 mL) followed by palladium(0) tetrakis(triphenylphosphine) (291 mg, 0.25 mmol). The reaction mixture is heated at reflux for 15 h. The reaction mixture is cooled, filtered through diatomaceous earth, diluted with ethyl acetate (50 mL), washed with water, and brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica gel, 5% methanol/methylene chloride) provides the title compound in pure form. ESI MS m/z 246.1 [M−H]−.

reactant | oxazole | 6.3 mmol, 432 mg | O1C=NC=C1 | C3H3NO
reactant | n-butyllithium | 6.9 mmol, 2.5 M, 2.75 mL | C(CCC)[Li]
reactant | 3-iodo-5-(methoxycarbonyl)benzoic acid | IC=1C=C(C(=O)O)C=C(C1)C(=O)OC | C9H7IO4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | zinc chloride | 18.75 mmol, 1 M, 18.75 mL | [Cl-].[Zn+2].[Cl-]
catalyst | palladium(0) tetrakis(triphenylphosphine) | 0.25 mmol, 291 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 3-(Methoxycarbonyl)-5-(1,3-oxazol-2-yl)benzoic acid | COC(=O)C=1C=C(C(=O)O)C=C(C1)C=1OC=CN1 | C12H9NO5
